Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Back pain after mechanical fall
 
Major Surgical or Invasive Procedure:
Anesthesia/intubation for MRI spine ___

 
History of Present Illness:
The patient is a ___ with hx of chronic pain, MVC in ___
requiring L arm skin graft, Lumbar spine osteomyelitis,
fibromyalgia, here after a fall endorsing increased low back 
pain
b/l ___ numbness and weakness. 

She reports that she recently moved from ___ with her cousin
___ out of fear for their lives. Her cousin was involved with a
man who confessed to a murder when drinking. He was detained by
the police and the patient and her cousin were questioned. She
and her cousin think that this man thinks that they provided the
police with information and wants to hurt them to keep them
quiet. Therefore, out of fear for their lives, they drove from
___ to ___ arriving on ___. While her cousin has family
here, she does not. She has no social supports - her father
passed away and her mother is in an elderly home. Her siblings
have all passed away from complications of drug use. 

While she normally has chronic pain in her back, neck, 
shoulders,
requiring chronic opioid use, her current pain is above 
baseline.

On ___, she was walking down some steep steps and lost her
balance, causing her to fall down ___ steps. On the way down, 
she
hit her lower back on the steps several times. After this fall,
she had extreme low back pain extending into b/l groin, thighs,
and eventually into both entire legs. 
After several hours, she started having numbness in bilateral
whole legs which has since improved to right more than left 
legs.
The sensation is decreased in her whole left leg, gone in her
whole right leg. She gets intermittent pins/needles sensation in
her right thigh. She also has felt b/l leg weakness right more
than left several hours after the fall - the right leg is
"dead-weight" and the left leg is weak as well but she can move
it somewhat. She can walk independently by dragging her right
leg. 

On neurologic ROS, she has intermittent R whole arm numbness
usually when she is lying in a certain position that improves
when she changes position and shakes out her right arm. She has
had tension headache coming from muscle tension in her neck with
a squeezing sensation around her head. She says sensation is
different when she wipes but she can still feel when she is 
going
to the bathroom. She has some problems getting the urine out at
times but she is always able to void. Denies difficulty with
producing or comprehending speech. Denies loss of vision, 
blurred
vision, diplopia, vertigo, tinnitus, hearing difficulty,
dysarthria, or dysphagia. No issues with incontinence. 

On ROS, she has had cough since ___ with rhinorrhea and chills,
+diarrhea x1 day, +myalgias/arthralgias. +cramping from her
menses. Yesterday she started passing clots/having her menses
which she has not had for ___ years ever since she had ovarial
cyst (polyp?) removed. No vomiting.  No dysuria. 
 
Past Medical History:
Anxiety
History of polysubstance abuse
MVC ___, now s/p L arm surgery with skin graft
R rotator cuff repair ___ years ago
R Ankle surgery from "brown recluse spider bite"  
Fibromyalgia
Chronic low back pain
Lumbar spine osteomyelitis in ___
Arthritis in upper and lower back. 
Ovarian cysts s/p "removal" ___ years ago. 
Iron deficiency anemia
Asthma, chronic bronchitis. 
 
Social History:
___
Family History:
Mother and father with strokes in old age. Her father had a
stroke and passed away in front of her. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
Temp: 98.0 HR: 60 BP: 101/70 Resp: 18 O(2)Sat: 98 Normal
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
no midline c-spine TTP
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender, Nondistended
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash, Warm and dry
Neuro: Speech fluent, CNII-XII intact, ___ strength BUE. ___
BLE IP/GLUT/QUAD, ___ BLE HAM, ___ BLE PF/DF. Diminished
sensation BLE L3-S1 R>L. Nl sensation over trunk/upper ext.
Psych: Normal mood, Normal mentation

DISCHARGE PHYSICAL EXAM (taken from Neurology note given detail 
of neurologic exam and recency relative to last medicine service 
exam)
=======================================
102.6, 103/71, 113, 16,  95RA
General: Awake, cooperative, NAD until talking about pain or 
with
motor exam - then she is extremely tearful. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: End Expiratory Wheeze left more than right.
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, reports mild tenderness with palpation due to
cramps. 
Extremities: No ___ edema. She has pain to palpation over b/l
shoulders, elbows, hips. 
Skin: no rashes or lesions noted.
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive to questioning. However, when 
doing
___ backwards, she does this very slowly and makes errors ie -
skipping one month, then saying it after going backwards
accurately for several months. On ___ backwards she also makes
errors but is able to correct and complete. Can spend WORLD
forwards and backwards. Language is fluent during history but
when repeating skips the several conjunctions. Can follow two
step commands. There were no paraphasic errors. She cannot name
___ - instead says trees, calls cactus -flowers, calls glove
- hand, names chair accurately, but also names ___ - ___.
As mentioned previously she has normal speech when telling her
whole story. Able to read without difficulty. Speech was not
dysarthric. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2.5 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation to finger wiggle - she points to
the side slowly. 
V: 50% facial sensation on right compared to left. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout aside from decreased bulk 
in
her left proximal arm over where there is a skin graft. No
pronator drift bilaterally though she has trouble lifting her
left arm up due to pain.
No adventitious movements, such as tremor, noted. No asterixis
noted.

***There is diffuse give way weakness in all tested muscle
groups. The number listed below represents best effort before 
her
muscle gives way secondary to pain and perceived weakness.
 
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___ 
L  3    ___-  ___  4    5  3     3     3   
R  4+   ___   ___   2*   0* 0*    0*    0*    
*In the RLE, the listed above is what she was did on
confrontational testing. However, she was able to keep her right
leg rigid against gravity when getting out of bed and able to
bear weight momentarily when walking. The strength must 
therefore
be more than what she gave on confrontational exam. 
**She was able to stand/walk on this L leg while keeping her
right leg stiff and mostly non weight bearing when walking. The
strength must therefore be more than she gave on confrontational
testing. 

-Sensory: No PP over chest, decreased PP on left abdomen 
compared
to right. Decreased PP, light touch, vibration (cannot feel) in
right leg compared to left (Around 7 sec in left toe, ankle, and
knee). Decreased PP and LT on left arm compared to right arm. 
She
denies being able to feel any sensation in her left arm and 
right
leg. 

-DTRs:
  Bi Tri ___ Pat Ach
L  1  -    1    2   0
R  2  -    1    2   1
Plantar response was flexor on the left with some withdrawal. R
plantar response is mute. No ankle clonus.

-Coordination: No dysmetria on FNF bilaterally.

-Gait: She sits up, and grabs her right leg pulling it of the
bed. then rotates her body keeping her right leg rigid the whole
time. She is able to stand and hold on to furniture in the room,
in a crouched position, holding her right leg stiff and dragging
it behind her but ultimately able to weight bear in left leg 
more
than right. 
 
Pertinent Results:
ADMISSION LABS
=============
___ 05:35AM BLOOD WBC-6.3 RBC-4.85 Hgb-13.6 Hct-40.8 MCV-84 
MCH-28.0 MCHC-33.3 RDW-13.6 RDWSD-41.7 Plt ___
___ 05:35AM BLOOD Neuts-53.6 ___ Monos-6.2 Eos-1.0 
Baso-0.6 Im ___ AbsNeut-3.36 AbsLymp-2.41 AbsMono-0.39 
AbsEos-0.06 AbsBaso-0.04
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD Glucose-93 UreaN-9 Creat-0.8 Na-136 K-4.1 
Cl-101 HCO3-24 AnGap-15

IMAGING/STUDIES
=============
MRI SPINE ___
IMPRESSION:
1. Obliteration of the intervertebral disc space at L4-L5 with 
marked erosion
of the adjacent endplates with minimal edema, and mainly fatty 
replacement of
the involved vertebral bodies consistent with chronic deformity 
from prior,
resolved discitis osteomyelitis.  No evidence of acute 
infection.  There is
associated up to 6 mm bony retropulsion producing mild spinal 
canal stenosis,
and a mildly narrowing the bilateral neural foramina.  No priors 
are available
for comparison.
2. No evidence of acute fracture.
3. No cord signal abnormality.
4. No significant spinal canal or neural foraminal narrowing at 
other levels.
5. Mild cervical degenerative disc disease.
6. Bilateral lower lobe consolidations most likely represent 
atelectasis.
7. Cholelithiasis.

CXR ___
FINDINGS: 
 The lungs are mildly hypoinflated with crowding of vasculature 
and moderate
bibasilar atelectasis.  No pleural effusion or pneumothorax.  
Heart size,
mediastinal contour, and hila are unremarkable.  The 
endotracheal tube is at
the level of the thoracic inlet 3 cm above the level of the 
carina.
Visualized osseous structures are unremarkable without displaced 
rib fracture.
An enteric feeding tube is in appropriate position with tip in 
stomach and
side port below the level of the diaphragm.
IMPRESSION:  
1. Low lung volumes with moderate bibasilar atelectasis.
2. Endotracheal tube and enteric feeding tube in appropriate 
position.

CT HEAD WO CONTRAST ___
FINDINGS: 
There is no intra-axial or extra-axial hemorrhage, edema, shift 
of normally
midline structures, or evidence of acute major vascular 
territorial
infarction. Ventricles and sulci are normal in overall size and 
configuration. 
The imaged paranasal sinuses are clear. Mastoid air cells and 
middle ear
cavities are well aerated. The bony calvarium is intact. An 
endotracheal tube
is partially visualized.  Numerous dental caries are 
incidentally visualized.
IMPRESSION: 
No acute intracranial abnormalities.

L SHOULDER X-RAY ___
FINDINGS: 
Two views the left clavicle three views left shoulder were 
provided.  Left
clavicle appears intact.  There is normal alignment of the left 
AC and
glenohumeral joint.  No worrisome calcifications.  The scapula 
appears intact.
The imaged left ribs appear intact.  Skin staples are seen 
projecting over the
left upper arm. 
IMPRESSION: 
No fracture or dislocation.

PELVIS X-RAY ___
FINDINGS: 
AP view of the pelvis provided demonstrates intact appearance of 
the bony
pelvic ring.  SI joints appear symmetric and normal.  Both hips 
align normally
without significant degenerative disease.  Loss of L4-5 disc 
space is better
assessed on same-day MRI from ___.
IMPRESSION: 
No acute fracture or dislocation.

ECG ___
Sinus tachycardia. Otherwise, normal ECG. No previous tracing 
available for
comparison.
 
CXR ___
FINDINGS: 
Normal heart size, pulmonary vascularity.  Lungs clear.  No 
pleural fluid.
Improvement since prior exam. 
IMPRESSION:  
Normal chest
 
DISCHARGE LABS
==============
___ 01:15PM BLOOD WBC-5.4 RBC-4.63 Hgb-13.0 Hct-41.2 MCV-89 
MCH-28.1 MCHC-31.6* RDW-14.1 RDWSD-45.1 Plt ___
___ 01:15PM BLOOD Plt ___ w/ anxiety/depression on Xanax and Elavil and chronic back 
pain on opiates who presented after mechanical fall down ___ 
steps at 11am ___ at home, c/b severe lower back pain and 
lower extremity weakness thought to be ___ conversion disorder 
after evaluation by neurology and ___ in the setting of recent 
life stressors. 

# Fever: Pt had fever to 102.9 on day of discharge. It was 
recommended that she stay for further infectious workup, however 
she requested to leave AMA after learning that her mother had 
just suffered from a stroke. Patient was deemed to have 
capacity, and was able to articulate risks of leaving hospital 
AMA. Patient agreed to present to ED where her mother was 
hospitalized. Patient had cough after intubation for MRI and may 
had an associated aspiration event though lungs clear. No other 
clear focal source of infection.  Blood cultures were pending at 
time of discharge.

#Vaginal bleeding: Unclear etiology- patient reports that she 
had not menstruated in ___ years but she thought this vaginal 
bleeding is consistent with menstrual period. She left AMA prior 
to vaginal exam and further workup. 

# Back Pain - Imaging and PE not concerning for cord compression 
(erosive changes involving L4-L5 with complete loss of 
intervertebral disc space were chronic). Decreased sensation and 
shooting pain R>L on lateral aspect of legs was consistent with 
L4/5 radiculopathy. Patient assessed by spine service, who did 
not feel there was any indication for acute surgical 
intervention. Pain control was main issue throughout admission. 
Severity of exam findings (weakness and sensory loss) was not 
congruent with imaging findings and was very variable, with 
limited effort on neurologic exam and complaint of weakness to 
the point of being unable to move ___, though patient able to 
ambulate to bathroom on her own. There may have been some 
component of somatization, especially in setting of difficult 
social hx including fleeing to ___ from an abusive spouse in 
___. Patient has had chronic back pain, not opiate naïve, 
fall likely caused acute inflammation and also paraspinal muscle 
spasm. Continued home medications (MS contin/oxycodone PRN) and 
started PRN Tylenol/Ibuprofen for additional pain control and 
anti-inflammatory effect. Of note, patient refused Tylenol, 
saying she has experienced stomach cramping in the past. Patient 
also received lidocaine patch and hot/cold packs. Patient new to 
___ system, had been filling opiate scripts in ___ ___ 
MD ___. Will need new provider for management of 
chronic opiates. 

# Cough: Ongoing cough since PTA, worsened s/p intubation for 
MRI. Atelectasis on admission imaging. Aspiration PNA considered 
given intubation, though labs all normal.  Patient febrile as 
above. Incentive spirometry and Guaifenesin PRN. 

# Anxiety 
- Continued home alprazolam

# Depression 
- Continued home amitriptyline 

TRANSITIONAL ISSUES
==================
- Patient should return to the Emergency Department as soon as 
she is able for further workup
- Patient is in need of new PCP for management of chronic pain 
meds
- Would benefit from psychological treatment, social work 
assistance, and physical therapy for her recent domestic abuse, 
depression, and likely conversion disorder
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 2 mg PO BID:PRN anxiety 
2. Amitriptyline 25 mg PO QHS 
3. Gabapentin 1200 mg PO TID 
4. Morphine SR (MS ___ 100 mg PO Q12H 
5. OxyCODONE (Immediate Release) 30 mg PO Q4H:PRN BREAKTHROUGH 
PAIN 

 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q8H  
2.  Lidocaine 5% Ointment 1 Appl TP Q8H:PRN pain 
Apply to painful area as needed.  
RX *lidocaine 5 % Apply to painful areas three times a day 
Refills:*0 
3.  ALPRAZolam 2 mg PO BID:PRN anxiety  
4.  Amitriptyline 25 mg PO QHS  
5.  Gabapentin 1200 mg PO TID  
6.  Morphine SR (MS ___ 100 mg PO Q12H  
7.  OxyCODONE (Immediate Release) 30 mg PO Q4H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 30 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*12 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
==============
Mechanical fall
Chronic L4/5 Disc Disease
Fever

Secondary Diagnoses
================
Anxiety
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you fell down several 
stairs on your back and were having severe pain.  IV pain 
medicine was given to you in the emergency department.  You had 
an MRI of your back (with anesthesia so that you could 
comfortably undergo the procedure), which did not show any acute 
fracture in your spine or problems with your spinal cord.  It 
did show chronic, degenerative changes to the bones in your 
lower back.  All other imaging, including a CT scan of your head 
and X-rays of your pelvis and shoulder, were all normal.  you 
received your regular home pain medicines in addition to 
Ibuprofen and Lidocaine patches.  

You did have a fever today, which requires further medical 
evaluation and treatment.  However, for personal reasons you 
preferred to be discharged AGAINST MEDICAL ADVICE.  

Please return to the Emergency Department as soon as you are 
able for further evaluation.  If you have any symptoms that 
concern you, please go to the Emergency Department immediately.

It was a pleasure taking care of you!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___